US04710502
7-Chloro-3-[4-(1H-imidazol-1-yl)butyl]-4(3H)-quinazolinone
A mixture of 1.39 g of imidazole-4-butanamine, 1.98 g of 4-chloroisatoic anhydride and 25 ml of ethanol was left at room temperature for 20 hours and concentrated. The residue and 5 ml of triethyl orthoformate were heated in an oil bath at 100°-125° C. for 3 hours and concentrated. The mixture was treated with ether to obtain the desired product, mp 123°-125° C.

reactant | imidazole-4-butanamine | 1.39 g | N1C=NC(=C1)CCCCN | C7H13N3
reactant | 4-chloroisatoic anhydride | 1.98 g | ClC=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4ClNO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 7-Chloro-3-[4-(1H-imidazol-1-yl)butyl]-4(3H)-quinazolinone | ClC1=CC=C2C(N(C=NC2=C1)CCCCN1C=NC=C1)=O | C15H15ClN4O
